US04845089
8.5 g of 1,1-dicyano-2,2-bis-(methylmercapto)-ethylene and 9.5 g of 3-trifluoromethyl-benzylhydrazine are mixed in 100 ml of ethanol. The mixture is stirred for 15 hours at 20° C. and the solvent is evaporated in a rotary evaporator. The residue is triturated in petroleum ether. 12.4 g (80% of theory) of 1-(3-trifluoromethylbenzyl)-3-methylmercapto-4-cyano-5-amino-pyrazol of melting point 142° C. are obtained.

reactant | 1,1-dicyano-2,2-bis-(methylmercapto)-ethylene | 8.5 g | C(#N)C(=C(SC)SC)C#N | C6H6N2S2
reactant | 3-trifluoromethyl-benzylhydrazine | 9.5 g | FC(C=1C=C(CNN)C=CC1)(F)F | C8H9F3N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(3-trifluoromethylbenzyl)-3-methylmercapto-4-cyano-5-amino-pyrazol | 12.4 g, 80% | FC(C=1C=C(CN2N=C(C(=C2N)C#N)SC)C=CC1)(F)F | C13H11F3N4S
